US05932595
Trifluoromethanesulfonic anhydride (2.60 mL, 15.39 mmol), followed by triethylamine (4.30 mL, 30.78 mmol) was added to a slurry of N-(tert-butoxycarbonyl)-4-hydroxymethylpiperidine-4-carboxylic acid (3.80 g, 14.65 mmol) in anhydrous diethyl ether (27 mL) cooled to 0° C. The biphasic solution was stirred for 23 hours, warmed to room temperature, stirred an addition 1 hour, and the upper diethyl ether layer separated by decantation. The lower was extracted with additional portions of diethyl ether (2×100 mL), and the combined organic extracts washed with aqueous sodium bicarbonate solution (2×50 mL), dried over magnesium sulfate, and concentrated in vacuo to afford 7-(butoxycarbonyl)-2-oxa-7-azaspiro[3.5]nonan-1-one as a pale yellow oil (2.88 g, 82%). 1HNMR (CDCl3) δ 1.48 (s, 9H), 1.79-1.89 (m, 2H), 2.02-2.10 (m, 2H), 3.48-3.66 (m, 4H), 4.13 (s, 2H).

reactant | Trifluoromethanesulfonic anhydride | 15.39 mmol, 2.60 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | triethylamine | 30.78 mmol, 4.30 mL | C(C)N(CC)CC | C6H15N
reactant | N-(tert-butoxycarbonyl)-4-hydroxymethylpiperidine-4-carboxylic acid | 14.65 mmol, 3.80 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(=O)O)CO | C12H21NO5
solvent | diethyl ether | 27 mL | C(C)OCC | C4H10O
product | 7-(butoxycarbonyl)-2-oxa-7-azaspiro[3.5]nonan-1-one | 2.88 g, 82% | C(CCC)OC(=O)N1CCC2(COC2=O)CC1 | C12H19NO4
